US05643932
There were mixed, each in a powdery state, 500 mg of 6-[2-(3,4-dimethoxybenzoylamino)acetyl]-3,4-dihydrocarbostyril and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent). The mixture was stirred at 200° C. with heating. After 3 hours, the reaction was completed. The residue was subjected to silica gel column chromatography (dichloromethane:methanol=49:1 by v/v). A solid obtained from the eluate was recrystallized from ethanol to obtain 98 mg of 2-(3,4-dimethoxyphenyl)-5-(3,4-dihydrocarbostyril-6-yl) thiazole as a white powder.

reactant | 6-[2-(3,4-dimethoxybenzoylamino)acetyl]-3,4-dihydrocarbostyril | 500 mg | COC=1C=C(C(=O)NCC(=O)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C20H20N2O5
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(3,4-dimethoxyphenyl)-5-(3,4-dihydrocarbostyril-6-yl) thiazole | 98 mg | COC=1C=C(C=CC1OC)C=1SC(=CN1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O3S
